US05747518
2) 3-amino-2-(1,3-dimethylbutyl)thiophene (Process B)
In 10 ml of methylene chloride, 1.2 g of 2-(1-hydroxy-1,3-dimethylbutyl)-3-t-butoxycarbonylaminothiophene was dissolved, 0.44 g of triethylsilane and 4.3 g of trifluoroacetic acid were added, and the mixture was stirred at the room temperature for 20 hours. The reaction mixture was neutralized with a saturated aqueous sodium hydrogen carbonate solution and extracted with ethyl acetate. The organic layer was washed with a saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure and the residue was purified by silica gel column chromatography to obtain 0.43 g of the product as a crystal.

reactant | 2-(1-hydroxy-1,3-dimethylbutyl)-3-t-butoxycarbonylaminothiophene | 1.2 g | OC(CC(C)C)(C)C=1SC=CC1NC(=O)OC(C)(C)C | C15H25NO3S
reactant | triethylsilane | 0.44 g | C(C)[SiH](CC)CC | C6H16Si
reactant | trifluoroacetic acid | 4.3 g | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 3-amino-2-(1,3-dimethylbutyl)thiophene | 0.43 g | NC1=C(SC=C1)C(CC(C)C)C | C10H17NS
